US07893056B2
To a solution of (3S)-3-methylmorpholine hydrochloride (0.2059 g, 1.496 mmol) in DMF (7.5 mL) was added tris(1,1-dimethylethyl)2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate (0.7451 g, 1.498 mmol), and N,N-diisopropylethylamine (0.575 mL, 3.301 mmol). The solution was stirred overnight, and then diluted with Et2O (150 mL). The mixture was washed with water (2×50 mL), and the combined aqueous phase was extracted with a fresh portion of Et2O (50 mL). This Et2O layer was washed with a fresh portion of water (50 mL), and the combined organic phase was diluted with DCM (50 mL), dried over anhydrous Na2SO4, filtered, concentrated in vacuo, and azeotroped with EtOAc. The solid was collected by vacuum filtration and washed with hexanes. The supernatant was concentrated in vacuo, and purified by gradient silica gel chromatography (0% to 100% EtOAc in hexanes; 1% Et3N). The desired fractions were concentrated in vacuo, and the resulting solid was collected by vacuum filtration, washed with hexanes, and combined with the first crop of solid to give tris(1,1-dimethylethyl)2-{2-chloro-5-fluoro-6-[(3S)-3-methyl-4-morpholinyl]-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate (0.6610 g, 79%) as a white solid. LCMS: (M+H)+: 562.2.

reactant | (3S)-3-methylmorpholine hydrochloride | 1.496 mmol, 0.2059 g | Cl.C[C@@H]1NCCOC1
reactant | tris(1,1-dimethylethyl)2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)-1,1,2-hydrazinetricarboxylate | 1.498 mmol, 0.7451 g | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)Cl)Cl)C(=O)OC(C)(C)C | C19H27Cl2FN4O6
reactant | N,N-diisopropylethylamine | 3.301 mmol, 0.575 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 7.5 mL | CN(C)C=O | C3H7NO
solvent | Et2O | 150 mL | CCOCC | C4H10O
product | tris(1,1-dimethylethyl)2-{2-chloro-5-fluoro-6-[(3S)-3-methyl-4-morpholinyl]-4-pyrimidinyl}-1,1,2-hydrazinetricarboxylate | 0.6610 g, 79% | CC(C)(C)OC(=O)N(N(C(=O)OC(C)(C)C)C1=NC(=NC(=C1F)N1[C@H](COCC1)C)Cl)C(=O)OC(C)(C)C | C24H37ClFN5O7
